US07323475B2
a) [5-(3,5-Difluoro-phenoxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetic acid ethyl ester
To an 80 mL microwave reaction vessel was added (5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester (2 g), 3,5-difluorophenol (1.12 g), potassium carbonate (1.39 g), and dimethyl acetamide (27 mL). The resulting mixture was reacted in the microwave at 100° C. for 10 min. Water (280 mL) was added and the resulting precipitate was filtered, washed with water and dried. Further purification by silica gel chromatography generated 0.94 g of the title compound. 1H NMR (200 MHz, CDCl3) δ 7.86 (d, J=8.2 Hz, 1H), 7.41-7.31 (m, 2H), 6.67-6.57 (m, 3H), 4.41 (s, 2H), 4.22 (q, J=7.1 Hz, 2H), 1.29 (t, J=7.0 Hz, 3H).

reactant | (5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester | 2 g | C(C)OC(CN1C(C2=CC=C(C=C2C1=O)[N+](=O)[O-])=O)=O | C12H10N2O6
reactant | 3,5-difluorophenol | 1.12 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | potassium carbonate | 1.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl acetamide | 27 mL | CC(=O)N(C)C | C4H9NO
solvent | Water | 280 mL | O | H2O
product | [5-(3,5-Difluoro-phenoxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetic acid ethyl ester | C(C)OC(CN1C(C2=CC=C(C=C2C1=O)OC1=CC(=CC(=C1)F)F)=O)=O | C18H13F2NO5
